US03953520
13.44 G. (0.56 mole) of magnesium turnings were placed in a dried flask under N2 with 125 ml. of ether and a crystal of iodine. 6 Ml. of 65 ml. solution of 24.2 g. (0.14 mole) of p-methylthiobenzyl chloride in ether was added. After 3 to 5 minutes of stirring, the iodine color disappeared and the reaction began. After aging for 5 minutes, the rest of the benzyl chloride was added dropwise over 45 minutes. It was rinsed in with 10 ml. of ether and the reaction aged for 2 hours with stirring. 21 G. (0.128 mole) of 5-fluoro-2-methyl-1-indanone dissolved in 50 ml. of ether was added dropwise over 30 minutes. After aging for 1 hour, the milky supernatent mixture was decanted from the magnesium into 100 ml. of acetic acid. The flask and residual magnesium were rinsed into the acid solution with 4 × 50 ml. of benzene. 200 Ml. of water were added, the layers were separated and the organic layer was washed with 5 × 200 ml. water. It was stripped to dryness after drying over Na2SO4. The crude reaction product is crystallized from hexane to give pure 5-fluoro-2-methyl-1-(p-methylthiobenzyl)-indene, melting point 58°-59°C.

reactant | magnesium | 0.56 mole | [Mg] | Mg
reactant | iodine | II | I2
reactant | p-methylthiobenzyl chloride | 0.14 mole | CSC1=CC=C(CCl)C=C1 | C8H9ClS
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 5-fluoro-2-methyl-1-indanone | 0.128 mole | FC=1C=C2CC(C(C2=CC1)=O)C | C10H9FO
solvent | ether | CCOCC | C4H10O
product | 5-fluoro-2-methyl-1-(p-methylthiobenzyl)-indene | FC=1C=C2C=C(C(C2=CC1)CC1=CC=C(C=C1)SC)C | C18H17FS
